US06320085B1
12.) 1-[(2-butynyloxy)methyl]naphthalene
To a flask equipped with magnetic stirrer, condenser and drying tube filled with calcium chloride, bromomethylnaphthalene (1.0 g, 4.52 mmol), 2-butyn-1-ol (0.63 g, 9 mmol) and 10 ml of dichloroethane are placed. After the addition of zinc(II) oxide (4.0 g, 4.52 mmol) the suspension is stirred for 1 hour at room temperature, then it is refluxed for 1 hour. The reaction is accompanied by a characteristic change of colour. The mixture is then filtered, the filtrate is evaporated. The residual oil is dissolved in 15 ml of ether, washed with 2×50 ml of water, dried and evaporated. The product is purified by coloumn chromatography. Purity (GC) 95%. IR (CHCl3, cm−1) υ: 3044, 3001, 2945, 2920, 2854, 1598, 1509, 1356, 1166, 1086, 1067; 1H-NMR (400 MHz, CDCl3) δ: 1.93 (3H, t, J=2.3 Hz, C≡C—CH3), 4.22 (2H, q, J=2.1 Hz, O—CH2—C≡C), 5.06 (2H, s, C10H7—CH2—O), 7.45 (1H, t, J=8 Hz), 7.53 (3H, m), 7.84 (1H, d, J=8.1 Hz), 7.88 (3H, m), 7.88 (1H, d, J=7.7 Hz), 8.19 (1H, d, J=8.2 Hz); 13C-NMR (100 MHz, CDCl3) δ: 3.6 (C≡C—CH3), 57.71 (O—CH2—C≡C), 69.72 C10H7—CH2—O), 75.10 (O—CH2—C≡C), 82.76 (O—CH2—C≡C), 124.03, 125.10, 125.72, 126.19, 126.85, 128.43, 128.72, 131.79 (C-8a), 133.06, 133.70.

reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | bromomethylnaphthalene | 4.52 mmol, 1.0 g | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
reactant | 2-butyn-1-ol | 9 mmol, 0.63 g | C(C#CC)O | C4H6O
catalyst | zinc(II) oxide | 4.52 mmol, 4.0 g | [O-2].[Zn+2]
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 1-[(2-butynyloxy)methyl]naphthalene | C(C#CC)OCC1=CC=CC2=CC=CC=C12 | C15H14O
